US08193187B2
Methyl 3-acetylamino-6-bromo-2-nitrobenzoate (Reference Compound No. 1-(3))
To conc. sulfuric acid (150 mL), methyl 5-acetylamino-2-bromobenzoate (Reference Compound No. 1-(2), 18.5 g, 68.1 mmol) was added portionwise at 0° C., and conc. nitric acid (150 mL) was added dropwise thereto over 1 hour. The reaction mixture was stirred for 30 minutes, poured into iced water (1 L), and then the whole was extracted with ethyl acetate (500 mL, twice). The organic layer was washed with water (1 L, twice), saturated aqueous sodium hydrogen carbonate solution (1 L), and saturated brine (1 L) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled reference compound (13.4 g) as a yellow solid. (Yield 62%)

reactant | sulfuric acid | 150 mL | S(O)(O)(=O)=O | H2O4S
reactant | methyl 5-acetylamino-2-bromobenzoate | C(C)(=O)NC=1C=CC(=C(C(=O)OC)C1)Br | C10H10BrNO3
reactant | nitric acid | 150 mL | [N+](=O)(O)[O-] | HNO3
solvent | water | 1 L | O | H2O
product | Methyl 3-acetylamino-6-bromo-2-nitrobenzoate | 13.4 g, Yield 62% | C(C)(=O)NC=1C(=C(C(=O)OC)C(=CC1)Br)[N+](=O)[O-] | C10H9BrN2O5
